US06127386
184b. 5-Allyl-6-chloro-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine hydrochloride
To a solution of 5-allyl-6-chloro-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine in Et2O was added hydrogen chloride (1.0 M in Et2O) carefully to afford the tittle compound: mp 150-152° C.; 1H NMR (D2O) δ 2.02-2.18 (m, 2H), 2.24 (m, 1H), 2.40 (m, 1H), 3.04 (s, 3H), 3.23 (m, 1H), 3.52 (d, 2H, J=6.5 Hz), 3.74 (m, 1H), 3.95 (m, 1H), 4.34 (dd, 1H, J=6.0, 11.5 Hz), 4.51 (dd, 1H, J=3.0, 11.0 Hz), 5.12 (dd, 1H, J=2.0, 17.5 Hz), 5.20 (dd, 1H, J=1.5, 10.0 Hz), 6.04 (m, 1H), 7.47 (d, 1H, J=3.0 Hz), 8.03 (d, 1H, J=3.0 Hz); MS (CI/NH3) m/z 267 (M+H)+. Anal. Calcd for C14H19ClN2O.1.1 HCl: C, 54.80; H, 6.60; N, 9.19. Found: C, 54.98; H, 6.37; N, 8.98. [α]25D -6.62 (c 1.5, MeOH).

reactant | 5-allyl-6-chloro-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine | C(C=C)C=1C=C(C=NC1Cl)OC[C@H]1N(CCC1)C | C14H19ClN2O
reactant | hydrogen chloride | 1.0 M | Cl | ClH
reactant | MeOH | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
product | 5-Allyl-6-chloro-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine hydrochloride | Cl.C(C=C)C=1C=C(C=NC1Cl)OC[C@H]1N(CCC1)C | InChI=1S/C14H19ClN2O.ClH/c1-3-5-11-8-13(9-16-14(11)15)18-10-12-6-4-7-17(12)2;/h3,8-9,12H,1,4-7,10H2,2H3;1H/t12-;/m0./s1
